US05686628
To a solution of N-[methoxycarbonyl]-L-valyl-L-proline tert-butyl ester (813 g) in toluene (3 litres) was added Amberlyst-15 ion exchange resin (190 g). The reaction was heated at 120° C. to distill off water present in the resin via a water/toluene azeotrope. Approximately 400 ml of distillate was collected. Heating was then continued at reflux for 1.5 hours. The reaction was cooled to 0° C. and the resin was removed by filtration. The filtrate was extracted with 1M NaOH (2.5 litres) followed by saturated aqueous sodium bicarbonate solution. The combined basic extracts were extracted with a mixture of THF/ethyl acetate (1:1, 1 litre), and then cooled in an ice bath. The aqueous solution was made acidic to pH 1.5 using cold 3M hydrocloric acid (1 litre) and extracted twice with THF/ethyl acetate (1:1, 1.5 litres and 1 litre). The extracts were combined and washed with brine, dried (MgSO4), and the solvent removed by evaporation. The resulting material was dissolved in ether (1 litre) and allowed to crystallize at 0° C. over 48 hours. The resulting solid was collected by filtration, washed with cold ether and dried under vacuum to give N-[methoxycarbonyl]-L-valyl-L-proline (373 g); 1H NMR (300 MHz, DMSO) 12.4 (s, 1H), 7.37 (d, 1H), 4.25 (dd, 1H), 4.00 (t, 1H), 3.79 (m, 1H), 3.55 (m, 1H), 3.51 (s, 3H), 2.11 (m, 1H), 1.85 (m, 4H), 0.91 (d, 3H), 0.87 (d, 3H); MS m/z=273 (M+1).

reactant | N-[methoxycarbonyl]-L-valyl-L-proline tert-butyl ester | 813 g | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](NC(=O)OC)C(C)C)=O)=O | C16H28N2O5
solvent | toluene | 3 litres | C1(=CC=CC=C1)C | C7H8
product | N-[methoxycarbonyl]-L-valyl-L-proline | 373 g | COC(=O)N[C@@H](C(C)C)C(=O)N1[C@H](C(=O)O)CCC1 | C12H20N2O5
